US05143912
A mixture of 5.42 g of 6-chloro-1-(methylimino)isoindoline (prepared from the hydrochloride by treatment with 1.5 equivalents of 2N sodium hydroxide solution) and 120 ml of toluene was treated dropwise under argon at 0°-5° within 10 minutes with 5.96 g of α-carbonyl-phenylacetyl chloride. The mixture was stirred for 30 minutes, 4.47 g of 1,5-diazabicyclo[4.3.0]non-5-ene in 30 ml of toluene were subsequently added dropwise thereto, the mixture was stirred at 0°-5° for a further 90 minutes, then treated with 50 ml of water and the separated crystals were filtered off under suction and washed with 35 ml of methylene chloride and, after drying, there was obtained 3.66 g of 9-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-3-phenyl-6H-pyrimido[2,1-a]isoindol-5-ium hydroxide (internal salt) with a m.p. of 245° (decomposition). This product was recrystallized from N,N-dimethylformamide and then had a m.p. of 288°.

reactant | 6-chloro-1-(methylimino)isoindoline | 5.42 g | ClC1=CC=C2CNC(C2=C1)=NC | C9H9ClN2
reactant | hydrochloride | Cl | ClH
reactant | sodium hydroxide | 2N, 1.5 equivalents | [OH-].[Na+]
reactant | α-carbonyl-phenylacetyl chloride | 5.96 g | C(=O)=C(C(=O)Cl)C1=CC=CC=C1 | C9H5ClO2
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 4.47 g | N12CCCN=C2CCC1 | C7H12N2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | 9-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-3-phenyl-6H-pyrimido[2,1-a]isoindol-5-ium hydroxide | 3.66 g | [OH-].ClC1=CC=C2C[N+]3=C(C2=C1)N(C(C(=C3O)C3=CC=CC=C3)=O)C | InChI=1S/C18H13ClN2O2.H2O/c1-20-16-14-9-13(19)8-7-12(14)10-21(16)18(23)15(17(20)22)11-5-3-2-4-6-11;/h2-9H,10H2,1H3;1H2
